US07943794B2
Preparation of (S)—N-[(2′-cyanobiphenyl-4-yl)methyl]-N-valeroyl-(L)-valine benzyl ester
A mixture of potassium carbonate (95.3 g) and de-mineralized water (100 ml) was stirred for 10 to 15 minutes to dissolve the solid. The temperature of the mixture was maintained at 25° to 30° C. and dichloromethane (300 ml) was added to the mixture. (S)—N-[(2′-Cyanobiphenyl-4-yl)methyl]-(L)-valine benzyl ester hydrochloride (100 g) and tetrabutyl ammonium bromide (10.0 g) were added to the mixture. The reaction mixture was cooled to −10° to −8° C. and valeryl chloride (36.1 g) was added at −10° to −5° C. The reaction mixture was stirred for 60 to 90 minutes at 0° to 5° C. After the completion of the reaction, the temperature was raised to 25° to 30° C. De-mineralized water (200 ml) was added to the reaction mixture and the mixture was stirred for 1 hour at 25° to 30° C. The two phases were separated and the organic layer was washed with de-mineralized water (200 ml). The organic layer was concentrated at 40° to 45° C. to obtain a residual liquid containing the title compound.

reactant | potassium carbonate | 95.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | (S)—N-[(2′-Cyanobiphenyl-4-yl)methyl]-(L)-valine benzyl ester hydrochloride | 100 g | Cl.C(C1=CC=CC=C1)OC([C@@H](NCC1=CC=C(C=C1)C1=C(C=CC=C1)C#N)C(C)C)=O
reactant | valeryl chloride | 36.1 g | C(CCCC)(=O)Cl | C5H9ClO
catalyst | tetrabutyl ammonium bromide | 10.0 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | 200 ml | O | H2O
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
solvent | water | 100 ml | O | H2O
product | (S)—N-[(2′-cyanobiphenyl-4-yl)methyl]-N-valeroyl-(L)-valine benzyl ester | C(C1=CC=CC=C1)OC([C@@H](N(C(CCCC)=O)CC1=CC=C(C=C1)C1=C(C=CC=C1)C#N)C(C)C)=O | C31H34N2O3
